US08114868B2
Step 2: 3-[(S)-1-(4-Bromo-2-methyl-phenyl)-ethyl]-(S)-6-(2-methyl-oxiranylmethyl) -6-phenyl-[1,3]oxazinan-2-one
3-[(S)-1-(4-Bromo-2-methyl-phenyl)-ethyl]-(R)-6-(2-methyl-allyl)-6-phenyl -[1,3]oxazin-an-2-one (1.34 g) dissolved in dichloromethane (15 mL) was added to a solution of 3-chloroperoxybenzoic acid (77%, 0.81 g) in dichloromethane (15 mL) cooled to 5° C. The cooling bath was removed and the solution was stirred at room temperature overnight. Aqueous 10% Na2S2O3 solution (10 mL) and aqueous saturated NaHCO3 solution (25 mL) were added and the resulting mixture was stirred for further 30 min. The organic phase was separated and washed with aqueous Na2S2O3 solution combined with aqueous saturated NaHCO3 solution, water, and brine. The organic phase was dried (MgSO4) and concentrated to furnish the title compound. Yield: 1.55 g (ca. 85-90% pure); LC-MS (Method 4): tR=4.28 min; Mass spectrum (ESI+): m/z=444/446 (Br) [M+H]+.

reactant | 3-[(S)-1-(4-Bromo-2-methyl-phenyl)-ethyl]-(R)-6-(2-methyl-allyl)-6-phenyl -[1,3]oxazin-an-2-one | 1.34 g | BrC1=CC(=C(C=C1)[C@H](C)N1C(O[C@](CC1)(C1=CC=CC=C1)CC(=C)C)=O)C | C23H26BrNO2
reactant | 3-chloroperoxybenzoic acid | 0.81 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 3-[(S)-1-(4-Bromo-2-methyl-phenyl)-ethyl]-(S)-6-(2-methyl-oxiranylmethyl) -6-phenyl-[1,3]oxazinan-2-one | BrC1=CC(=C(C=C1)[C@H](C)N1C(O[C@](CC1)(C1=CC=CC=C1)CC1(OC1)C)=O)C | C23H26BrNO3
